US07452885B2
Preparation of 2-Amino-5-(2,6-diethyl-pyridin-4-yl)-5-[4-fluoro-3-(5-fluoropyridin-3-yl)-phenyl]-3-methyl-3,5-dihydro-imidazol-4-one
A mixture of 2-amino-5-(3-bromo-4-fluorophenyl]-5-(2,6-diethyl-pyridin-4-yl)-3-methyl-3,5-dihydro-imidazol-4-one (0.12 g, 0.286 mmol), 5-fluoropyridin-3-yl(tributly)tin (0.166 g, 0.43 mmol) and bis(triphenylphosphino)palladium(II) chloride (0.016 g, 0.023 mmol) in DMF (5 mL) was degassed and heated at 150° C. for 0.5 h. The mixture was cooled to room temperature and diluted with ethyl acetate (50 mL) and 2% aqueous lithium chloride (20 mL). The organic layer was separated, washed with 2% aqueous lithium chloride, dried over sodium sulfate, filtered, and concentrated. Purification of the resultant residue by flash chromatography (silica, 97:3:0.25 methylene chloride/methanol/concentrated ammonium hydroxide) afforded the title product (0.085 g, 68%) as a white solid, mp 155-157° C.; 1H NMR (300 MHz, CD3OD) 8.55 (d, J=1.5 Hz, 1H), 8.49 (d, J=2.7 Hz, 1H), 7.82 (d, J=9.6 Hz, 1H), 7.60-7.57 (m, 2H), 7.27 (dd, J=10.2, 8.7 Hz, 1H), 7.15 (s, 2H), 3.13 (s, 3H), 2.74 (q, J=7.5 Hz, 4H), 1.23 (t, J=7.5 Hz, 6H); IR (ATR) 3064, 2969, 2935, 1733, 1670, 1597, 1459, 1412, 1328, 1228, 989, 881, 783, 702 cm−1; ESI MS m/z 436 [C24H23F2N5O+H]+. Anal. Calcd for C24H23F2N5O: C, 66.19; H, 5.32; N, 16.08.

reactant | 2-amino-5-(3-bromo-4-fluorophenyl]-5-(2,6-diethyl-pyridin-4-yl)-3-methyl-3,5-dihydro-imidazol-4-one | 0.286 mmol, 0.12 g | NC1=NC(C(N1C)=O)(C1=CC(=NC(=C1)CC)CC)C1=CC(=C(C=C1)F)Br | C19H20BrFN4O
reactant | 5-fluoropyridin-3-yl(tributly)tin | 0.43 mmol, 0.166 g | FC=1C=C(C=NC1)[Sn](CCCC)(CCCC)CCCC
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
catalyst | bis(triphenylphosphino)palladium(II) chloride | 0.023 mmol, 0.016 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)[Pd-](P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)Cl
product | 2-Amino-5-(2,6-diethyl-pyridin-4-yl)-5-[4-fluoro-3-(5-fluoropyridin-3-yl)-phenyl]-3-methyl-3,5-dihydro-imidazol-4-one | 0.085 g, 68% | NC1=NC(C(N1C)=O)(C1=CC(=C(C=C1)F)C=1C=NC=C(C1)F)C1=CC(=NC(=C1)CC)CC | C24H23F2N5O
